US05412097
A solution of 6-[(1-oxopentyl)amino)]-2-butylimidazo[4,5-b]pyridine, K2CO3 (956 mg, 6.92 mmol), and 4'-bromomethylbiphenyl-2-tert-butylsulfonamide 1.65 g, 3.46 mmol) in DMF (15 mL) was stirred for 12 h at r.t. The reaction mixture was poured into H2O (50 mL), extracted with EtOAc (2×50 mL), concentrated, and purified (SiO2, 4:1 EtOAc/hexanes) to give 740 mg of 2-butyl-3-[2'-(N-tert-butyl-aminosulfonyl)[1,1']biphenyl-4-yl]methyl-6-[(1-oxopentyl)amino)]-3H-imidazo[4,5-b]pyridine as a foam.

reactant | 2-butylimidazo[4,5-b]pyridine | C(CCC)C=1NC=2C(=NC=CC2)N1 | C10H13N3
reactant | K2CO3 | 6.92 mmol, 956 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 50 mL | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 3H-imidazo[4,5-b]pyridine | N1=CNC2=NC=CC=C21 | C6H5N3
